US05387710
To a solution of 1-aminomethyl-7-methoxy-1,2,3,4-tetrahydro-1-naphthalenol (27.50 g) in 10% aqueous acetic acid solution (250 ml) was added dropwise a solution of sodium nitrite (10.07 g) in water (61 ml) at 8° C.~9° C. The reaction mixture was stirred for 2 hours at the same temperature. The resulting precipitates were collected by filtration. The precipitates were dissolved in ethyl acetate. The solution was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography (silica gel, n-hexane:ethyl acetate:chloroform=5:1:3) to give 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-one (19.39 g) as a white powder.

reactant | 1-aminomethyl-7-methoxy-1,2,3,4-tetrahydro-1-naphthalenol | 27.50 g | NCC1(CCCC2=CC=C(C=C12)OC)O | C12H17NO2
reactant | sodium nitrite | 10.07 g | N(=O)[O-].[Na+]
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | water | 61 ml | O | H2O
product | 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-one | 19.39 g | COC1=CC2=C(CCCC(C2)=O)C=C1 | C12H14O2
